US07763657B2
Step 3: 4-Amino-3-iodo-5-trifluoromethylbenzonitrile
4-Amino-3-trifluoromethylbenzonitrile (100 mg, 0.54 mmol) and ICl (1.1 eq, 0.58 mmol, 96.00 mg) were added methylene chloride. The mixture was stirred for 12 hr. The reaction mixture was purified according to step 2 of Example 8 to give a title compound (30.5 mg, 18.10%).

reactant | 4-Amino-3-trifluoromethylbenzonitrile | 0.54 mmol, 100 mg | NC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | ICl | 0.58 mmol, 96.00 mg, 1.1 eq | ICl | ClI
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Amino-3-iodo-5-trifluoromethylbenzonitrile | 30.5 mg, 18.10% | NC1=C(C=C(C#N)C=C1C(F)(F)F)I | C8H4F3IN2
